US06921753B2
(2S,3S,4R,5R)-4-(Benzoyloxy)-5-(6-[(2,2-diphenylethyl)amino]-2-{[({[2-(1-piperidinyl)ethyl]amino}carbonyl)amino]methyl}-9H-purin-9-yl)-2-[(ethylamino)carbonyl]tetrahydro-3-furanyl benzoate
N,O-Bistrimethylsilylacetamide (0.34 ml, 1.4 mmol) was added to a stirred suspension of N-({6-[(2,2-diphenylethyl)amino]-9H-purin-2-yl}methyl)-N′-[2-(1-piperidinyl)ethyl]urea (100 mg, 0.2 mmol) (Preparation 5) in 1,1,1-trichloroethane (20 ml) at 50° C. The reaction mixture was stirred at this temperature for 30 minutes, allowed to cool to room temperature and then evaporated under reduced pressure. Toluene (5 ml) was added and the solvent was removed under reduced pressure. The residue was redissolved in toluene (20 ml). (2S,3S,4R,5R)-5-(Acetyloxy)-4-(benzoyloxy)-2-[(ethylamino)carbonyl]tetrahydro-3-furanyl benzoate and (2S,3S,4R,5S)-5-(acetyloxy)-4-(benzoyloxy)-2-[(ethylamino)carbonyl]tetrahydro-3-furanyl benzoate (Preparation 18) and then trimethylsilyltrifluoromethanesulphonate (0.1 ml, 0.35 mmol) were added and the reaction mixture was heated under reflux for 2 hours. The reaction was then allowed to cool to room temperature and diluted with ethyl acetate (100 ml). The solution was washed with saturated aqueous sodium hydrogen carbonate solution (2×50 ml) and saturated aqueous sodium chloride solution (50 ml) and then dried (anhydrous magnesium sulphate). The solvent was removed to give a residue that was purified by column chromatography on silica gel eluting with dichloromethane:methanol:0.88 concentrated aqueous ammonia (95:5:0.5 by volume). This gave an impure oil (100 mg) which was used without further purification in subsequent experiments.

reactant | N-({6-[(2,2-diphenylethyl)amino]-9H-purin-2-yl}methyl)-N′-[2-(1-piperidinyl)ethyl]urea | 0.2 mmol, 100 mg | C1(=CC=CC=C1)C(CNC1=C2N=CNC2=NC(=N1)CNC(=O)NCCN1CCCCC1)C1=CC=CC=C1 | C28H34N8O
reactant | (2S,3S,4R,5R)-5-(Acetyloxy)-4-(benzoyloxy)-2-[(ethylamino)carbonyl]tetrahydro-3-furanyl benzoate | C(C1=CC=CC=C1)(=O)O[C@@H]1[C@H](O[C@@H]([C@@H]1OC(C1=CC=CC=C1)=O)OC(C)=O)C(=O)NCC | C23H23NO8
reactant | (2S,3S,4R,5S)-5-(acetyloxy)-4-(benzoyloxy)-2-[(ethylamino)carbonyl]tetrahydro-3-furanyl benzoate | C(C1=CC=CC=C1)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]1OC(C1=CC=CC=C1)=O)OC(C)=O)C(=O)NCC | C23H23NO8
reactant | trimethylsilyltrifluoromethanesulphonate | 0.35 mmol, 0.1 ml | C[Si](C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
solvent | 1,1,1-trichloroethane | 20 ml | ClC(C)(Cl)Cl | C2H3Cl3
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | (2S,3S,4R,5R)-4-(Benzoyloxy)-5-(6-[(2,2-diphenylethyl)amino]-2-{[({[2-(1-piperidinyl)ethyl]amino}carbonyl)amino]methyl}-9H-purin-9-yl)-2-[(ethylamino)carbonyl]tetrahydro-3-furanyl benzoate | 100 mg | C(C1=CC=CC=C1)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]1OC(C1=CC=CC=C1)=O)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)CNC(=O)NCCN1CCCCC1)C(=O)NCC | C49H53N9O7
